US04400382
5-Methyl-pyrido(2,3-e)(1,2,4)triazolo(4,3-a)pyrazine-1,4-(2H,5H)dione
A mixture of 7.5 g. of 2-chloro-4-methyl-pyrido(2,3-b)pyrazine-3-one, and 4 g. of methyl carbazate in 200 ml. of Dowtherm A was stirred and heated at 80° C. for 1 hour and then at 230° C. for 20 minutes.

reactant | 2-chloro-4-methyl-pyrido(2,3-b)pyrazine-3-one | ClC1=NC2=C(N(C1=O)C)N=CC=C2 | C8H6ClN3O
reactant | methyl carbazate | C(NN)(=O)OC | C2H6N2O2
reactant | Dowtherm A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 5-Methyl-pyrido(2,3-e)(1,2,4)triazolo(4,3-a)pyrazine-1,4-(2H,5H)dione | CN1C(C=2N(C3=C1N=CC=C3)C(NN2)=O)=O | C9H7N5O2
